US08486967B2
b) N-(1-(3-Methyl-1,2,4-thiadiazol-5-yl)piperidin-4-yl)-7-phenyl-[1,2,4]triazolo[1,5-a]pyridin-2-amine
Prepared in analogy to example 66c from (7-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine and phenyl boronic acid. The title compound was obtained as off-white foam.

reactant | (7-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine | BrC1=CC=2N(C=C1)N=C(N2)NC2CCN(CC2)C2=NC(=NS2)C | C14H16BrN7S
reactant | phenyl boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | N-(1-(3-Methyl-1,2,4-thiadiazol-5-yl)piperidin-4-yl)-7-phenyl-[1,2,4]triazolo[1,5-a]pyridin-2-amine | CC1=NSC(=N1)N1CCC(CC1)NC1=NN2C(C=C(C=C2)C2=CC=CC=C2)=N1 | C20H21N7S
